US06787539B2
To a solution of 2.50 g (10.24 mmol) 2-methyl-4-o-tolyloxy-pyrimidine-5-carboxylic acid, 1.43 ml triethylamine (10.24 mmol) and 1.9 ml (20.4 mmol) t-butanol in 50 ml THF, 2.2 ml (10.24 mmol) diphenylphosporylazide were added and the resulting solution heated at reflux for 12 hrs. After evaporation of the solvent, the residue was distributed between CH2Cl2 and H2O. The aquoeus phase was extracted twice with 80 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated. The residue was purified by chromatography (SiO2, CH2Cl2/MeOH 40:1) to give 1.83 g (56%) (2-methyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester as a colorless solid, MS (ISP): 316.3 (M+H)+.

reactant | 2-methyl-4-o-tolyloxy-pyrimidine-5-carboxylic acid | 10.24 mmol, 2.50 g | CC1=NC=C(C(=N1)OC1=C(C=CC=C1)C)C(=O)O | C13H12N2O3
reactant | triethylamine | 10.24 mmol, 1.43 ml | C(C)N(CC)CC | C6H15N
reactant | t-butanol | 20.4 mmol, 1.9 ml | C(C)(C)(C)O | C4H10O
reactant | THF | 50 ml | C1CCOC1 | C4H8O
product | (2-methyl-4-o-tolyloxy-pyrimidin-5-yl)-carbamic acid tert.-butyl ester | 1.83 g, 56% | C(C)(C)(C)OC(NC=1C(=NC(=NC1)C)OC1=C(C=CC=C1)C)=O | C17H21N3O3
